US08309546B2
Step 4: 6-Chloro-9-(tetrahydro-2H-pyran-2-yl)-2-(tributylstannyl)-9H-purine
2,2,6,6-Tetramethylpiperidine (26.5 ml, 157 mmol) was dissolved in tetrahydrofuran (200 ml) in an argon atmosphere and n-butyl lithium (2.6 M hexane solution, 54 ml) was added dropwise at room temperature. After the completion of dropwise addition, the resulting mixture was stirred for 15 minutes. The reaction mixture was cooled to −78° C. followed by the dropwise addition of a tetrahydrofuran (30 ml) solution of 6-chloro-9-(tetrahydro-2H-pyran-2-yl)-9H-purine (7.5 g, 31.4 mmol) and the resulting mixture was stirred at the same temperature for 40 minutes. Tetrabutyltin chloride (26 ml, 94.3 mmol) was added dropwise to this solution and the resulting mixture was stirred for 30 minutes. An aqueous ammonium chloride solution was added, the resulting mixture was heated to room temperature followed by the addition of ethyl acetate, and the organic layer was fractionated. The organic layer was washed with water and saturated brine and dried over magnesium sulfate and the solvent was evaporated under reduced pressure. The residue was purified by silica gel chromatography (hexane:ethyl acetate=9:1 to 8:2 to 7:3 to 6:4 to 5:5) to give the title compound (13.3 g, 80%) as a pale yellow oil.

reactant | 2,2,6,6-Tetramethylpiperidine | 157 mmol, 26.5 ml | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | 6-chloro-9-(tetrahydro-2H-pyran-2-yl)-9H-purine | 31.4 mmol, 7.5 g | ClC1=C2N=CN(C2=NC=N1)C1OCCCC1 | C10H11ClN4O
reactant | Tetrabutyltin chloride | 94.3 mmol, 26 ml | C(CCC)[Sn](CCCC)(CCCC)CCCC.[Cl-]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | n-butyl lithium | 2.6 M, 54 ml | C(CCC)[Li]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-Chloro-9-(tetrahydro-2H-pyran-2-yl)-2-(tributylstannyl)-9H-purine | 13.3 g, 80% | ClC1=C2N=CN(C2=NC(=N1)[Sn](CCCC)(CCCC)CCCC)C1OCCCC1 | InChI=1S/C10H10ClN4O.3C4H9.Sn/c11-9-8-10(13-5-12-9)15(6-14-8)7-3-1-2-4-16-7;3*1-3-4-2;/h6-7H,1-4H2;3*1,3-4H2,2H3;
